US04954508
4,7-dihydro-1,3,6-trimethyl-4-(3-nitrophenyl)-1H-pyrazolo[3,4-b]pyridin-5-carboxylic acid methyl ester.
1,3-Dimethyl-5-pyrazolamine (3.33 g; 0.030 mol) is dissolved in ethanol (35 ml) and methyl-2-(3-nitrobenzyliden)acetoacetate (6.75 g; 0.27 mol) is added thereto. The mixture is refluxed for about 5 hours, then the solvent is evaporated under reduced pressure and the residue is taken up in methylene chloride, washed with 2% hydrochloric acid and then with saturated aqueous sodium bicarbonate, the organic phase is dried over sodium sulphate and then the solvent is evaporated. The solid compound of the title is recovered by filtration, after taking up in ethyl ether. M.p. 163°-166° C.

reactant | 1,3-Dimethyl-5-pyrazolamine | 0.030 mol, 3.33 g | CN1N=C(C=C1N)C | C5H9N3
reactant | methyl-2-(3-nitrobenzyliden)acetoacetate | 0.27 mol, 6.75 g | COC(C(C(=O)C)=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C12H11NO5
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 4,7-dihydro-1,3,6-trimethyl-4-(3-nitrophenyl)-1H-pyrazolo[3,4-b]pyridin-5-carboxylic acid methyl ester | COC(=O)C=1C(C2=C(NC1C)N(N=C2C)C)C2=CC(=CC=C2)[N+](=O)[O-] | C17H18N4O4
